US07253192B2
C] 2-(4-Acetoxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester
A solution of 531 mg (1.8 mmol) 2-(4-acetyl-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester, 545 mg (3.2 mmol) 3-chloroperbenzoic acid and 34 mg (0.2 mmol) 4-toluenesulfonic acid in 24 ml dichloromethane was heated under reflux conditions for 72 h. The mixture was cooled to room temperature and washed two times with ice water/sodium iodide solution and two times with ice water/aqueous NaHSO3 solution. The organic layer was dried over sodium sulfate, the solvent was removed under reduced pressure and the resulting brown solid was purified by column chromatography (silica gel, heptane/AcOEt) to give 235 mg (0.8 mmol, 42%) of the title compound as yellow oil.

reactant | 2-(4-acetyl-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 1.8 mmol, 531 mg | C(C)OC(C(C)(C)OC1=C(C=C(C(=C1)OC)C(C)=O)C)=O | C16H22O5
reactant | 3-chloroperbenzoic acid | 3.2 mmol, 545 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-toluenesulfonic acid | 0.2 mmol, 34 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
product | 2-(4-Acetoxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.8 mmol, 235 mg, 42% | C(C)OC(C(C)(C)OC1=C(C=C(C(=C1)OC)OC(C)=O)C)=O | C16H22O6
